US05688803
3.1 g (15.6 mmol) of 2-amino-5-fluoro-4-nitro-benzamide were dissolved in 130 ml of tetrahydrofuran and treated at 0° C. with 3.1 g (10.4 mmol) of triphosgene. The mixture was left to warm to room temperature and stirred for a further 1.5 hrs. Then, the solution was concentrated and triturated with water. The precipitate was filtered off under suction and dried. 2.09 g (60%) of 2,4-dioxo-6-fluoro-7-nitro-1,2,3,4-tetrahydroquinazoline were obtained as yellowish crystals;

reactant | 2-amino-5-fluoro-4-nitro-benzamide | 15.6 mmol, 3.1 g | NC1=C(C(=O)N)C=C(C(=C1)[N+](=O)[O-])F | C7H6FN3O3
reactant | triphosgene | 10.4 mmol, 3.1 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | 2,4-dioxo-6-fluoro-7-nitro-1,2,3,4-tetrahydroquinazoline | 2.09 g, 60% | O=C1NC2=CC(=C(C=C2C(N1)=O)F)[N+](=O)[O-] | C8H4FN3O4
